US07354571B2
Chloromethyltrimethylsilane (110.5 g, 0.9 mol) is added dropwise over 30 minutes to a mixture of para-hydroxybenzaldehyde (110 g, 0.82 mol) and potassium carbonate (124.5 g, 0.9 mol) in 1 L of dry DMF maintained at 80° C., and while sparging with nitrogen. The mixture is left at 90° C. for 4 hours. The reaction mixture is filtered and the solvent is removed from the filtrate by distillation under vacuum. The final traces of DMF are removed via a stage at 60° C. under a vacuum of 2 mmHg. 142.4 g (yield: 84%) of 4-trimethylsilanylmethoxybenzaldehyde are obtained in the form of an orange-yellow oil, which is used without further purification in the next step.

reactant | Chloromethyltrimethylsilane | 0.9 mol, 110.5 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | para-hydroxybenzaldehyde | 0.82 mol, 110 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 0.9 mol, 124.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | 4-trimethylsilanylmethoxybenzaldehyde | 142.4 g, yield: 84% | C[Si](C)(C)COC1=CC=C(C=O)C=C1 | C11H16O2Si
